US06228859B1
6-Amino-3-(3-benzyloxy-4-methoxy-benzyl)-8-isopropyl-3H-purine hydrochloride (4.04 g, 9.2 mmole), in THF:methanol (1:1) (600 ml) was hydrogenated for 10 hours over 10% Pd-C (0.8 g) at room temperature and pressure. The catalyst was filtered off, the solvents removed in vacuo and the residue crystallized from acetone to give 6-amino-3-(3-hydroxy-4-methoxy-benzyl)-8-isopropyl-3H-purine hydrochloride (2.53 g, 78.8%), mp 125-130/185-195° C.

reactant | 6-Amino-3-(3-benzyloxy-4-methoxy-benzyl)-8-isopropyl-3H-purine hydrochloride | 9.2 mmole, 4.04 g | Cl.NC1=C2N=C(N=C2N(C=N1)CC1=CC(=C(C=C1)OC)OCC1=CC=CC=C1)C(C)C
solvent | THF methanol | 600 ml | C1CCOC1.CO
catalyst | Pd-C | 0.8 g | [Pd] | Pd
product | 6-amino-3-(3-hydroxy-4-methoxy-benzyl)-8-isopropyl-3H-purine hydrochloride | 2.53 g, 78.8% | Cl.NC1=C2N=C(N=C2N(C=N1)CC1=CC(=C(C=C1)OC)O)C(C)C | InChI=1S/C16H19N5O2.ClH/c1-9(2)15-19-13-14(17)18-8-21(16(13)20-15)7-10-4-5-12(23-3)11(22)6-10;/h4-6,8-9,22H,7,17H2,1-3H3;1H
